US07772234B2
A mixture of 7-(2,4-dichlorophenylamino)-8-fluoro-4-methyl-cinnoline-6-carboxylic acid (31 mg, 0.086 mmol), EDCI (28 mg, 0.14 mmol), and HOBt-H2O (21 mg, 0.14 mmol) in DMF (1 mL) was stirred for 45 minutes at room temperature. O-(2-Vinyloxy-ethyl)-hydroxylamine (18 mg, 0.18 mmol) and TEA (0.030 mL, 0.21 mmol) were added. The resulting mixture was stirred for 16 hours at room temperature. The reaction mixture was diluted with EtOAc, and washed with saturated aqueous NH4Cl, brine, saturated aqueous NaHCO3, and brine. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to give the crude material which was purified by Biotage (1.5 to 3% MeOH in CH2Cl2) to afford 9 mg (39%) of 7-(2,4-dichlorophenylamino)-8-fluoro-4-methyl-cinnoline-6-carboxylic acid (2-vinyloxy-ethoxy)-amide. A mixture of the vinyl ether (9 mg, 0.020 mmol) and 1 N aqueous HCl (0.040 mL, 0.040 mmol) in EtOH (3 mL) was stirred for 1 hour at room temperature. The pH of the reaction mixture was adjusted to 6 to 7 with 2 N aqueous NaOH. The reaction mixture was diluted with EtOAc, and washed with water. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to give 7-(2,4-dichlorophenylamino)-8-fluoro-4-methyl-cinnoline-6-carboxylic acid (2-hydroxyethoxy)-amide (6 mg, 71%). MS APCI (+) m/z 425, 427 (M+, Cl pattern) detected; 1H NMR (400 MHz, CD3OD) δ 9.26 (s, 1H), 8.30 (s 1H), 7.48 (d, 1H), 7.22 (dd, 1H), 6.90 (dd, 1H), 4.08 (t, 2H), 3.99 (t, 2H), 2.80 (s, 3H).

reactant | 7-(2,4-dichlorophenylamino)-8-fluoro-4-methyl-cinnoline-6-carboxylic acid | 0.086 mmol, 31 mg | ClC1=C(C=CC(=C1)Cl)NC1=C(C=C2C(=CN=NC2=C1F)C)C(=O)O | C16H10Cl2FN3O2
reactant | EDCI | 0.14 mmol, 28 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt H2O | 0.14 mmol, 21 mg | C=1C=CC2=C(C1)N=NN2O.O
reactant | O-(2-Vinyloxy-ethyl)-hydroxylamine | 0.18 mmol, 18 mg | C(=C)OCCON | C4H9NO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-(2,4-dichlorophenylamino)-8-fluoro-4-methyl-cinnoline-6-carboxylic acid (2-vinyloxy-ethoxy)-amide | 9 mg, 39% | C(=C)OCCONC(=O)C=1C=C2C(=CN=NC2=C(C1NC1=C(C=C(C=C1)Cl)Cl)F)C | C20H17Cl2FN4O3
